US08865726B2
(S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one (30 mg, 73%) was prepared by the procedure described in Example 1, Step 9, using a mixture of (S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one and (S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one. LCMS (APCI+) m/z 478.2 [M+H]+.

reactant | (S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | FC=1C=C(C=CC1F)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)F | C29H28F3N7O3Si
reactant | (S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | FC=1C=C(C=CC1F)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NC=NN2COCC[Si](C)(C)C)F | C29H28F3N7O3Si
product | (S)-4-(3,4-difluorophenyl)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 30 mg, 73% | FC=1C=C(C=CC1F)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC(=C(C=C2)C2=NNC=N2)F | C23H14F3N7O2
